US04259489
2,3-Dicyano-5-chloro-6-(m-chlorophenyl)pyrazine (1.0 g; 0.0036 mole), 0.24 g (0.004 mole) of n-propylamine and 40 ml of a 0.1 N aqueous solution of sodium hydroxide were worked up in the same way as in Example 17, and recrystallized from methanol to afford 0.84 g (yield 78%) of 2,3-dicyano-5-n-propylamino-6-(m-chlorophenyl)pyrazine.

reactant | 2,3-Dicyano-5-chloro-6-(m-chlorophenyl)pyrazine | 0.0036 mole, 1.0 g | C(#N)C1=NC(=C(N=C1C#N)Cl)C1=CC(=CC=C1)Cl | C12H4Cl2N4
reactant | n-propylamine | 0.004 mole, 0.24 g | C(CC)N | C3H9N
reactant | sodium hydroxide | [OH-].[Na+]
product | 2,3-dicyano-5-n-propylamino-6-(m-chlorophenyl)pyrazine | 0.84 g, yield 78% | C(#N)C1=NC(=C(N=C1C#N)NCCC)C1=CC(=CC=C1)Cl | C15H12ClN5
